Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
C[O:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][n:7][cH:8][c:9]3[c:10]2[cH:11][n:12][n:13]3[CH3:14])[cH:15][cH:16][c:17]1[NH:18][C:19](=[O:20])[NH:21][c:22]1[cH:23][cH:24][cH:25][c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1>>[OH:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][n:7][cH:8][c:9]3[c:10]2[cH:11][n:12][n:13]3[CH3:14])[cH:15][cH:16][c:17]1[NH:18][C:19](=[O:20])[NH:21][c:22]1[cH:23][cH:24][cH:25][c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1,[CH3:101][O:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][n:7][cH:8][c:9]3[c:10]2[cH:11][n:12][n:13]3[CH3:14])[cH:15][cH:16][c:17]1[NH:18][C:19](=[O:20])[NH:21][c:22]1[cH:23][cH:24][cH:25][c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][c:4](-[c:5]2[cH:6][n:7][cH:8][c:9]3[c:10]2[cH:11][n:12][n:13]3[CH3:14])[cH:15][cH:16][c:17]1[NH:18][C:19](=[O:20])[NH:21][c:22]1[cH:23][cH:24][cH:25][c:26]([C:27]([F:28])([F:29])[F:30])[cH:31]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH3:2])[CH3:3].[CH3:4][N:5]([c:6]1[cH:7][cH:8][n:9][c:10]([NH:11][C@@H:12]([CH2:13][NH2:14])[CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[n:22]1)[c:23]1[cH:24][cH:25][n:26][c:27](-[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[n:34]1>>[CH:1]([CH3:2])([CH3:3])[NH:14][CH2:13][C@H:12]([NH:11][c:10]1[n:9][cH:8][cH:7][c:6]([N:5]([CH3:4])[c:23]2[cH:24][cH:25][n:26][c:27](-[c:28]3[cH:29][cH:30][cH:31][cH:32][cH:33]3)[n:34]2)[n:22]1)[CH2:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,[CH3:4][N:5]([c:6]1[cH:7][cH:8][n:9][c:10]([NH:11][C@@H:12]([CH2:13][NH2:14])[CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[n:22]1)[c:23]1[cH:24][cH:25][n:26][c:27](-[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[n:34]1.[O:101]=[C:1]([CH3:2])[CH3:3].[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]([CH3:2])([CH3:3])[NH:14][CH2:13][C@H:12]([NH:11][c:10]1[n:9][cH:8][cH:7][c:6]([N:5]([CH3:4])[c:23]2[cH:24][cH:25][n:26][c:27](-[c:28]3[cH:29][cH:30][cH:31][cH:32][cH:33]3)[n:34]2)[n:22]1)[CH2:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,reductive_amination,"[(14, 1), ([1, 101], 301), (101, 14.1), ([14.1, 14], 14), (14, [14, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 14], 14)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([CH3:10])[cH:11][cH:12]2)[c:13](-[c:14]2[cH:20][cH:19][c:17]([Cl:18])[cH:16][cH:15]2)[n:21][c:22]1[CH2:23][n:24]1[n:25][cH:26][n:27][n:28]1.[NH2:29][N:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1>>[C:1](=[O:2])([c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([CH3:10])[cH:11][cH:12]2)[c:13](-[c:14]2[cH:15][cH:16][c:17]([Cl:18])[cH:19][cH:20]2)[n:21][c:22]1[CH2:23][n:24]1[n:25][cH:26][n:27][n:28]1)[NH:29][N:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1,CC[O:101][C:1](=[O:2])[c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([CH3:10])[cH:11][cH:12]2)[c:13](-[c:14]2[cH:15][cH:16][c:17]([Cl:18])[cH:19][cH:20]2)[n:21][c:22]1[CH2:23][n:24]1[n:25][cH:26][n:27][n:28]1.[NH2:29][N:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1>>[C:1](=[O:2])([c:3]1[n:4][c:5](-[c:6]2[cH:7][cH:8][c:9]([CH3:10])[cH:11][cH:12]2)[c:13](-[c:14]2[cH:15][cH:16][c:17]([Cl:18])[cH:19][cH:20]2)[n:21][c:22]1[CH2:23][n:24]1[n:25][cH:26][n:27][n:28]1)[NH:29][N:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(29, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][cH:9]1.[OH:10][CH2:11][CH2:12][n:13]1[cH:14][cH:15][cH:16][n:17]1>>[c:1]1([O:10][CH2:11][CH2:12][n:13]2[cH:14][cH:15][cH:16][n:17]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][cH:9]1,[F:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][cH:9]1.[OH:10][CH2:11][CH2:12][n:13]1[cH:14][cH:15][cH:16][n:17]1.[H-:301].[Na+]>>[c:1]1([O:10][CH2:11][CH2:12][n:13]2[cH:14][cH:15][cH:16][n:17]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][cH:9]1,SNAr_alco(thi)ol(para),"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
